US04160837
15.9 g (0.05 mol) of endo-4-(p-toluenesulphonyloxy-1-azabicyclo[3.2.1]-octane hydrochloride with a melting point of 146°-148°, which, according to W. Kunz, Thesis, University of Basel 1973, 6349, page 92, can be obtained by reacting endo-1-azabicyclo[3.2.1]-octan-4-ol, which is described in this thesis and in J. Org. Chem. 33, 4376-4380 (1968), with the approximately 1.2-fold molar amount of p-toluenesulphonyl chloride in absolute chloroform at room temperature for a reaction period of about 48 hours, precipitating the crude product with pentane and recrystallising the product from chloroform, and 23.0 g (0.2 mol) of methanesulphonyl chloride are stirred in 1,400 ml of 0.75 N sodium hydroxide solution for 4 hours at room temperature and the mixture is then heated at 90° for 20 minutes, while stirring. After cooling, the reaction mixture is extracted four times with methylene chloride. The combined extracts are washed with 0.1 N hydrochloric acid, dried over potassium carbonate and evaporated and 1-methylsulphonyl-2,3,6,7-tetrahydro-1H-azepine is obtained; melting point 95°-96° (from ethyl acetate/benzene).

reactant | p-toluenesulphonyloxy-1-azabicyclo[3.2.1]-octane hydrochloride | Cl.C1(=CC=C(C=C1)S(=O)(=O)OC1N2CCC(CC1)C2)C
reactant | p-toluenesulphonyl chloride | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | methanesulphonyl chloride | 0.2 mol, 23.0 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | sodium hydroxide | 0.75 N, 1,400 ml | [OH-].[Na+]
product | 1-methylsulphonyl-2,3,6,7-tetrahydro-1H-azepine | CS(=O)(=O)N1CCC=CCC1 | C7H13NO2S
